US08420817B2
1.2 N-(7,8-Dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-3-yl)-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide (Compound 1)
A solution of 0.5 g (1.74 mmol) of 5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxylic acid, prepared in sep 1.1, 0.33 g (1.74 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide and 0.23 g (1.74 mmol) of N-1-hydroxybenzotriazole in 10 ml of dimethylformamide is stirred at 20° C. for 15 minutes. The reaction mixture is subsequently admixed with 0.516 g (2.09 mmol) of the compound IV-a and also with 0.29 ml (2.09 mmol) of triethylamine. The reaction mixture is subsequently stirred at 20° C. for 12 hours and then concentrated under reduced pressure, poured into 50 ml of water and extracted with three times 50 ml of ethyl acetate. The organic phases are combined and then washed with twice 20 ml of saturated sodium hydrogen carbonate solution, once with 20 ml of water and then once with 50 ml of saturated sodium chloride solution, dried over sodium sulfate and then concentrated under reduced pressure. The product obtained is purified by chromatography on a silica column, eluting with a mixture of dichloromethane and methanol. This gives 0.31 g of the expected compound.

reactant | 5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxylic acid | 1.74 mmol, 0.5 g | FC=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)F)C(=O)O | C16H11F2NO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 1.74 mmol, 0.33 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | triethylamine | 2.09 mmol, 0.29 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(7,8-Dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-3-yl)-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide | N1=C2C(=CC(=C1)NC(=O)C=1N(C3=CC=C(C=C3C1)F)CC1=CC(=CC=C1)F)N=C1N2CCC1 | C25H19F2N5O
